US07576074B2
Cyanomethyl benzoate (22.2 g, 138 mmol) was dissolved in ethanol (250 mL) followed by addition of 50% aqueous hydroxylamine (16.9 mL, 276 mmol) and the mixture was stirred for 15 minutes at room temperature. Concentration followed by addition of water (250 mL) afforded a colorless crystalline solid that was collected by filtration and washed with additional water then dried in vacuo to give 2-(hydroxyamino)-2-iminoethyl benzoate (23.69 g, 88% yield). 1H-NMR (400 MHz; DMSO-d6): 9.37 (s, 1H), 7.98 (m, 2H), 7.65 (m, 1H), 7.54 (tr, 2H), 5.69 (br s, 2H), 4.64 (s, 2H).

reactant | Cyanomethyl benzoate | 138 mmol, 22.2 g | C(C1=CC=CC=C1)(=O)OCC#N | C9H7NO2
reactant | hydroxylamine | 276 mmol, 16.9 mL | NO | H3NO
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | 2-(hydroxyamino)-2-iminoethyl benzoate | 23.69 g, 88% yield | C(C1=CC=CC=C1)(=O)OCC(=N)NO | C9H10N2O3
